US04870170
2-Chloroallyl Oxalochloride [2-Chloroallyloxy)oxalyl Chloride]
Oxalyl chloride (130 ml, 1.49 mol) was placed in a dry 3-neck flask under N2 and cooled to 0° C. With stirring, 2-chloroallyl alcohol (138 g, 1.49 mol) was added dropwise in a manner which maintained the temperature at 0°-2° C. and controlled the vigorous evolution of HCl, then allowed to warm to room temperature and held 16 hours and distilled to yield title product, 214 g, b.p. 82°-84° C./23 mm.

reactant | Oxalyl chloride | 1.49 mol, 130 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-chloroallyl alcohol | 1.49 mol, 138 g | ClC(CO)=C | C3H5ClO
reactant | HCl | Cl | ClH
product | 2-Chloroallyl Oxalochloride [2-Chloroallyloxy)oxalyl Chloride | ClC(COC(C(=O)Cl)=O)=C.ClC(COC(C(=O)Cl)=O)=C | 2C5H4Cl2O3
